* Generated by electronics_design from a KiCad schematic
.include "all_devices.lib"
.include "OPA1641.LIB"
Q12 N007 N011 vss 0 Q2SC2240
R13 N017 vss 10R
C20 p+ GNDPWR 2200uF;63V
C21 GNDPWR p- 2200uF;63V
Q10 N008 N008 vdd 0 QSA970
R31 out N027 10;2W
C4 0 v+ 100n
R1 N035 N040 2k7
V_PWR0121 GNDPWR 0 GNDPWR
C12 GNDPWR vss 100n
R11 N021 N012 47R;1W
R9 N011 N017 100R
R21 N038 0 5k6;1W
D1 vdd N039 LED1
Q3 N033 N038 N036 0 Q2SC2240
C16 GNDPWR p- 2200uF;63V
R15 N019 N025 330R
V_PWR0120 GNDPWR 0 GNDPWR
C11 GNDPWR vdd 100n
V_PWR0128 GNDPWR 0 GNDPWR
C9 0 N034 100n
D4 vss N038 LED1
R14 N021 N026 330R
R10 vdd N020 10R
V_PWR0125 GNDPWR 0 GNDPWR
R26 N012 N014 22;1W
D6 vdd vgq13 D1N5245/TEMP
R16 0 in 22k
V_PWR0118 GNDPWR 0 GNDPWR
Q7 N004 N040 N005 0 Q2SC2240
C7 N030 N028 1uF
C6 0 v- 100uF;16V
Q15 p+ N026 N018 0 FQA46N15
C13 vgq13 GNDPWR 4.7uF;63V
L1 out N018 1.2u Rser=1m
R19 vdd N037 330
C2 N006 0 100uF;16V
R27 N005 N018 560;1W
R12 N012 N019 47R;1W
C1 N040 0 470p
R2 N039 0 5k6;1W
R29 p+ vgq13 10k
C14 GNDPWR vgq14 4.7uF;63V
R7 N013 N015 100R
XQ9 N013 N009 N002 BS250P
C10 N012 N005 47pF
R4 N034 N001 100
C15 p+ GNDPWR 2200uF;63V
R8 N007 N016 120R
R17 N006 N028 3k3
V_PWR0123 GNDPWR 0 GNDPWR
R5 N003 N004 10
R30 vgq14 p- 10k
R3 vdd N002 150R
Vp1 p+ GNDPWR PULSE(10 50 0 10m 1m 10 10)
R25 N010 N007 7k5
XU1 in N028 v+ v- N035 OPA1641
XQ8 N003 N001 N013 2N7000_ZX
XQ6 N016 N019 N017 FQP3N30
R18 N030 N035 22k
V_PWR0116 GNDPWR 0 GNDPWR
Q4 vss N033 v- 0 IRF9610h
Q11 N009 N009 N008 0 BS250P
R6 N005 0 100;0.5W
V_PWR0122 GNDPWR 0 GNDPWR
V_PWR0117 GNDPWR 0 GNDPWR
R24 N009 N010 10k
V_PWR0127 GNDPWR 0 GNDPWR
Q5 N021 N015 N020 0 FQP3P20
Q13 NC_Q13_82_2 NC_Q13_82_1 NC_Q13_82_3 0 IRF610h
D5 vgq14 vss D1N5245/TEMP
V_PWR0126 GNDPWR 0 GNDPWR
R20 vss N036 330
Q2 N034 N039 N037 0 QSA970
C8 0 N033 100n
Q1 vdd N034 v+ 0 IRF610h
Q14 p- vgq14 vss 0 IRF9610h
C18 GNDPWR p+ 100n
V_PWR0129 GNDPWR 0 GNDPWR
RLoad2 GNDPWR out R = 'TIME > 300m ? 7 : 8'
D3 0 N033 D1N5248/TEMP
Vp2 p- GNDPWR PULSE(-10 -50 0 10m 1m 10 10)
V_PWR0132 GNDPWR 0 GNDPWR
V_PWR0130 GNDPWR 0 GNDPWR
V_PWR0119 GNDPWR 0 GNDPWR
D2 0 N034 D1N5248/TEMP
R23 N006 out 10K
C19 p- GNDPWR 100n
R28 N014 out 22;1W
C5 0 v- 100n
R32 0 GNDPWR 1u
C3 v+ 0 100uF;25V
Q16 p- N025 N018 0 FQA36P15
C17 N027 GNDPWR 100nF
Vin1 in 0 SINE(0 0.7 1k 110m)
.options chgtol=1e-10 reltol=0.01 vntol=10u rshunt=1e9 method=gear
.tran 1
.backanno
.end
